US04668687
1-[(2-Chlorophenyl)[4-(2-pyrimidinyl)-1-piperazinyl]methyl]-2-pyrrolidinone
A solution of 2-pyrrolidinone (4.25 g, 0.05 mole), 1-(pyrimidin-2-yl)piperazine (8.2 g, 0.05 mole) and 2-chlorobenzaldehyde (7.05 g, 0.05 mole) in 200 mL toluene was stirred and heated for 16 hour with an attached Dean-Stark trap for azeotropic removal of water. The solution was concentrated in vacuo to provide 16.2 g, (87%) of product. Recrystallization from ethanol gave white crystals, m.p. 166°-177°.

reactant | 2-pyrrolidinone | 0.05 mole, 4.25 g | N1C(CCC1)=O | C4H7NO
reactant | 1-(pyrimidin-2-yl)piperazine | 0.05 mole, 8.2 g | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | 2-chlorobenzaldehyde | 0.05 mole, 7.05 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | water | O | H2O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[(2-Chlorophenyl)[4-(2-pyrimidinyl)-1-piperazinyl]methyl]-2-pyrrolidinone | 87% | ClC1=C(C=CC=C1)C(N1C(CCC1)=O)N1CCN(CC1)C1=NC=CC=N1 | C19H22ClN5O
